US05273972
A. 5-Chloro-2-methoxy-4-(methylamino)-N-[2-(1-piperidinyl-methyl)-1-azabicyclo[2.2.2]oct-3-yl]benzamide, cis:trans (2:3)
A solution of 5-chloro-2-methoxy-4-(methylamino)-benzoic acid (1.95 g, 9.0 mmoles) in anhydrous tetrahydrofuran (10 ml) was treated with 1,1'-carbonyldiimidazole (1.49 g, 9.2 mmoles), stirred at room temperature for 90 minutes, then added to a cooled (0° C.) solution of 2-(1-piperidylmethyl)-1-azabicyclo[2.2.2]octan-3-amine (2.12 g, 9.5 mmoles) in anhydrous tetrahydrofuran (10 ml) under nitrogen. After 18 hours at room temperature the solution was concentrated in vacuo and partitioned between methylene chloride (100 ml) and 1.0N sodium hydroxide (40 ml). The organic solution was separated and washed with 1.0N sodium hydroxide (40 ml), saturated aqueous sodium bicarbonate (40 ml), and brine (40 ml), dried (Na2SO4), and concentrated in vacuo. Filtration through alumina (eluted with 15% methanol/ethyl acetate) provided 3.24 g (86%) of a colorless foam.

reactant | 5-chloro-2-methoxy-4-(methylamino)-benzoic acid | 9.0 mmoles, 1.95 g | ClC=1C(=CC(=C(C(=O)O)C1)OC)NC | C9H10ClNO3
reactant | 1,1'-carbonyldiimidazole | 9.2 mmoles, 1.49 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(1-piperidylmethyl)-1-azabicyclo[2.2.2]octan-3-amine | 9.5 mmoles, 2.12 g | N1(CCCCC1)CC1N2CCC(C1N)CC2 | C13H25N3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-Chloro-2-methoxy-4-(methylamino)-N-[2-(1-piperidinyl-methyl)-1-azabicyclo[2.2.2]oct-3-yl]benzamide | 3.24 g, 86% | ClC=1C(=CC(=C(C(=O)NC2C(N3CCC2CC3)CN3CCCCC3)C1)OC)NC | C22H33ClN4O2
